US05198591
In step I, the by-products are present in the reaction system in an amount of 10-30% by weight. The content of acetone and water in the post-reaction mixture while cooling it in step II is 2-6% by weight of acetone and 1-4% by weight of water, respectively. The crystalline bisphenol-A/phenol adduct is washed in step III with mother liquor II, obtained in step V, in an amount of 0.2-2.0 parts by weight of the liquor per 1 part by weight of the crystalline adduct. The bisphenol-A/phenol adduct is dissolved in step IV using the mother liquor II obtained in step V and/or phenolic solution obtained in step VII. The crystalline bisphenol-A/phenol adduct is washed in step V with fresh and regenerated phenol obtained in step VI and used in a ratio of 1-3 parts by weight of fresh phenol per 1 part by weight of regenerated phenol. Bisphenol A is separated from the bisphenol-A/phenol adduct by vacuum distillation of a substantial volume of phenol and removal of phenolic residue from bisphenol A by steam stripping. The volume of phenol distilled off the mother liquor I in step VII is 0.1-0.3 parts by weight per 1 part by weight of mother liquor I. Mother liquor I obtained in step III of the process is sent to thermal catalytic decomposition in step VIII in an amount of 0.05-0.2 parts by weight. The catalytic decomposition is conducted in the range of temperature 200°-300° C. and in the range of absolute pressure of 1-50 mm Hg in the presence of catalysts selected from the group comprising: Na2HPO2, NaHCO3, NaOH. The rearrangement of some of the components of the distillate from step VIII toward bisphenol A in step IX as a result of thermal catalytic decomposition of part of mother liquor I is conducted in the presence of oxalic acid used in an amount of 0.05-0.5% by weight.

reactant | bisphenol-A phenol | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O.C1(=CC=CC=C1)O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | bisphenol A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
